US05889008
To a solution of 3-nitrophenethyl alcohol (5.13 g, 30.7 mmol), in ethanol (100 ml), was added a slurry of 10% Pd--C (0.5 g), in water (4 ml), and the mixture hydrogenated in a Parr flask, at 45 psi for 0.75 h. The catalyst was removed by filtration and the solvent evaporated to give 3-aminophenethyl alcohol (4.2 g, 100%), mp 61°-64° C., δ (360 MHz, CDCl3) 2.77 (2H, t, J=6.7 Hz, CH2), 3.80 (2H, t, J=6.7 Hz, CH2), 6.55-6.63 (3H, m, Ar--H), 7.08 (1H, dd, J=7.6 and 8.06 Hz, Ar--H).

reactant | 3-nitrophenethyl alcohol | 30.7 mmol, 5.13 g | [N+](=O)([O-])C=1C=C(CCO)C=CC1 | C8H9NO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
product | 3-aminophenethyl alcohol | 4.2 g, 100% | NC=1C=C(CCO)C=CC1 | C8H11NO
